US09403801B2
Step 2) tert-butyl 4-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate
To a solution of tert-butyl 4-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate (528 mg, 1.50 mmol) and 1-methyl-1H-pyrazol-4-amine hydrochloride (240.52 mg, 1.8 mmol) in n-BuOH (8 mL) was added DIPEA (581.60 mg, 4.5 mmol). After addition, the reaction mixture was stirred at 150° C. overnight. The resulting mixture was concentrated in vacuo and purified by silica gel column chromatography (DCM/MeOH (v/v)=50/1 to 20/1) to give the product as a yellow oil (550 mg, 88.9%).

reactant | tert-butyl 4-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 1.50 mmol, 528 mg | ClC1=NC=CC(=N1)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C17H25ClN4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 1.8 mmol, 240.52 mg | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 4.5 mmol, 581.60 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 8 mL | CCCCO | C4H10O
product | tert-butyl 4-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 550 mg, 88.9% | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C21H31N7O2
